US07754728B2
9-Benzyl-8-hydroxy-2-methoxycarbonylmethyladenine
After sodium cyanide (0.20 g, 4.08 mmol) and 9-benzyl-2-chloromethyl-8-hydroxyadenine (0.20 g, 0.69 mmol) were added to DMF (10 ml), the mixture was stirred at 80° C. for 7 hours. After removing the solvent, the residue was poured into water and the solution was neutralized with concentrated hydrochloric acid. The solution was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography (SiO2 20 g, eluting solvent: CHCl3/MeOH=100/1˜50/1) and washed with methanol to give 9-benzyl-2-cyanomethyl-8-hydroxyadenine (0.16 g, 0.57 mmol) as a pale yellow solid. Thus obtained 9-benzyl-2-cyanomethyl-8-hydroxyadenine (0.08 g, 0.29 mmol) was added to a mixed solvent of 5% sodium hydroxide solution (20 ml) and methanol (10 ml), and the mixture was stirred at 60° C. for 8 hours. After the mixture was neutralized with concentrated hydrochloric acid, the solvent was removed. The residue and sulfuric acid (1 ml) were added to methanol (50 ml), and the mixture was refluxed for 3 hours under stirring. After being neutralized with saturated sodium hydrogencarbonate solution in an ice bath, the solution was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified with column chromatography (SiO2 20 g, eluting solvent: CHCl3/MeOH=100/1˜30/1) and washed with methanol to give the captioned compound (0.02 g, 0.06 mmol) as a white solid.

reactant | 9-benzyl-2-cyanomethyl-8-hydroxyadenine | 0.29 mmol, 0.08 g | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1O)N)CC#N | C14H12N6O
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
product | 9-Benzyl-8-hydroxy-2-methoxycarbonylmethyladenine | 0.06 mmol, 0.02 g | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1O)N)CC(=O)OC | C15H15N5O3
